US06174898B1
(R)-1-(3-((2,2-bis(4-Fluorophenyl)ethenyl)oxy)-1-propyl)-3-piperidinecarboxylic acid hydrochloride
(R)-1-(3-((2,2-bis(4-Fluorophenyl)ethenyl)oxy)-1-propyl)-3-piperidinecarboxylic acid ethyl ester tartrate (3.8 g, 0.0065 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (25 ml) and 12 N sodium hydroxide solution (2.2 ml) was introduced at 5° C. After stirring the solution at room temperature for 4.8 h, pH of the reaction mixture was adjusted to ca. 7 with 4 N hydrochloric acid solution, and the mixture was evaporated to a residue in vacuo. Water (25 ml) was added, and the mixture was extracted with dichloromethane (3×50 ml). The combined extacts were dried (MgSO4) and evaporated to a foam, which was dissolved in toluene (1.5 ml) and warmed to 40° C. Methanol (0.27 ml) was introduced followed by chlorotrimethylsilane (0.83 ml). The product precipitated slowly, and after the suspension had been allowed to stand for 18 h at room temperature it was collected by filtration. The title compound (2.9 g, 100%) was obtained as white crystals.

reactant | (R)-1-(3-((2,2-bis(4-Fluorophenyl)ethenyl)oxy)-1-propyl)-3-piperidinecarboxylic acid ethyl ester tartrate | C(=O)(O)C(O)C(O)C(=O)O.C(C)OC(=O)[C@H]1CN(CCC1)CCCOC=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F
reactant | sodium hydroxide | 12 N, 2.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (R)-1-(3-((2,2-bis(4-Fluorophenyl)ethenyl)oxy)-1-propyl)-3-piperidinecarboxylic acid hydrochloride | 2.9 g, 100% | Cl.FC1=CC=C(C=C1)C(=COCCCN1C[C@@H](CCC1)C(=O)O)C1=CC=C(C=C1)F | InChI=1S/C23H25F2NO3.ClH/c24-20-8-4-17(5-9-20)22(18-6-10-21(25)11-7-18)16-29-14-2-13-26-12-1-3-19(15-26)23(27)28;/h4-11,16,19H,1-3,12-15H2,(H,27,28);1H/t19-;/m1./s1
